US06963017B2
37. 2-Methyl-4-(1-naphthyl)indene (37)
1.3 g (33 mmol) of sodium borohydride were added at 0° C. to a solution of 12 g (44 mmol) of (16) in 100 ml of THF/methanol 2:1 and the mixture was stirred for 18 hours at room temperature. The reaction mixture was poured onto 100 g of ice, concentrated hydrochloric acid was added until the pH was 1 and the mixture was extracted a number of times with diethyl ether. The combined organic phases were washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The crude product was taken up in 200 ml of toluene, admixed with 0.5 g of p-toluenesulfonic acid and refluxed for 2 hours on a water separator. The reaction mixture was washed 3 times with 509 ml each time of saturated sodium hydrogen carbonate solution and the solvent was removed under reduced pressure. The solid residue was washed with a little pentane and dried under reduced pressure. This gave 10.3 g of (37) in the form of colorless crystals.

reactant | sodium borohydride | 33 mmol, 1.3 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | THF methanol | 100 ml | C1CCOC1.CO
product | 2-Methyl-4-(1-naphthyl)indene | CC=1CC2=CC=CC(=C2C1)C1=CC=CC2=CC=CC=C12 | C20H16
